US09120749B2
cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-((2-(piperazin-1-yl)pyrimidin-5-yl)amino)quinolin-3-yl)methanone
Following general procedure A-2, tert-butyl 4-(5-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)pyrimidin-2-yl)piperazine-1-carboxylate (0.10 mmol) was reacted with TFA (2 mL) to afford the desired product (7.4 mg, 14% over two steps) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 9.24 (s, 1H), 8.30 (s, 2H), 7.93 (d, J=1.3 Hz, 2H), 7.83 (d, J=1.3 Hz, 1H), 7.21 (s, 2H), 3.98 (t, J=5.2 Hz, 4H), 3.06 (t, J=5.2 Hz, 4H), 2.94-2.86 (m, 1H), 1.24-1.08 (m, 4H). ESI MS m/z 535 [C27H24Cl2N6O2+H]+; HPLC>99% (AUC), tR=11.54 min.

reactant | tert-butyl 4-(5-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)pyrimidin-2-yl)piperazine-1-carboxylate | 0.10 mmol | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C32H32Cl2N6O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-((2-(piperazin-1-yl)pyrimidin-5-yl)amino)quinolin-3-yl)methanone | 7.4 mg, 14% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NC(=NC1)N1CCNCC1)C1=CC(=C(C(=C1)Cl)O)Cl | C27H24Cl2N6O2
